US07456218B2
3-[4-({2′,6′-dimethyl-4′-[3-(6-methylpyridin-2-yl)propoxy]biphenyl-3-yl}methoxy)phenyl]propanoic acid hydrochloride
To a solution of 3-[4-({2′,6′-dimethyl-4′-[3-(6-methylpyridin-2-yl)propoxy]biphenyl-3-yl}methoxy)phenyl]propanoic acid (55 mg, 0.11 mmol) in ethyl acetate (2.2 mL) was added 4 N hydrogen chloride-ethyl acetate solution (81 μL, 0.32 mmol) and the mixture was concentrated under reduced pressure. The obtained crystals were collected by filtration, washed and dried to give the title compound (42 mg, yield 71%) as colorless crystals.

reactant | 3-[4-({2′,6′-dimethyl-4′-[3-(6-methylpyridin-2-yl)propoxy]biphenyl-3-yl}methoxy)phenyl]propanoic acid | 0.11 mmol, 55 mg | CC1=C(C(=CC(=C1)OCCCC1=NC(=CC=C1)C)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C33H35NO4
reactant | hydrogen chloride-ethyl acetate | 0.32 mmol, 4 N, 81 μL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2.2 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-({2′,6′-dimethyl-4′-[3-(6-methylpyridin-2-yl)propoxy]biphenyl-3-yl}methoxy)phenyl]propanoic acid hydrochloride | 42 mg, yield 71% | Cl.CC1=C(C(=CC(=C1)OCCCC1=NC(=CC=C1)C)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | InChI=1S/C33H35NO4.ClH/c1-23-19-31(37-18-6-11-29-10-4-7-25(3)34-29)20-24(2)33(23)28-9-5-8-27(21-28)22-38-30-15-12-26(13-16-30)14-17-32(35)36;/h4-5,7-10,12-13,15-16,19-21H,6,11,14,17-18,22H2,1-3H3,(H,35,36);1H
